US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-[4-(2-oxo-oxazolidin-3-yl)-benzoyl]-1,2,3,4-tetrahydroquinolin-4-yl}-acetamide (H-102)
N-[1-(4-Amino-benzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-N-(4-chloro-phenyl)-acetamide (61 mg, 0.142 mmol) was dissolved in methylene chloride (2 mL) and was added triethylamine (0.100 mL, 0.700 mmol). 2-Bromoethylchloroformate (0.023 mL, 0.213 mmol) was added and the reaction was allowed to warm to room temperature. After 1 hour at room temperature, DMF (2 mL) and Cs2CO3 (100 mg, 0.307 mmol) were added and the mixture was stirred over night. The mixture was partitioned between methylene chloride and water; the methylene chloride layer was dried over MgSO4, filtered and concentrated. The crude residue was purified by silica gel chromatography (1/1 hexanes/ethyl acetate to 100% ethyl acetate gradient) to afford the product.

reactant | N-[1-(4-Amino-benzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-N-(4-chloro-phenyl)-acetamide | 0.142 mmol, 61 mg | NC1=CC=C(C(=O)N2C(CC(C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C25H24ClN3O2
reactant | triethylamine | 0.700 mmol, 0.100 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Bromoethylchloroformate | 0.213 mmol, 0.023 mL | BrCCOC(=O)Cl | C3H4BrClO2
reactant | Cs2CO3 | 0.307 mmol, 100 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-[4-(2-oxo-oxazolidin-3-yl)-benzoyl]-1,2,3,4-tetrahydroquinolin-4-yl}-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)N1C(OCC1)=O)=O)C | C28H26ClN3O4
